*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW2BAN3N2J00
* Property : L = 3.2[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 50MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LELO_SVOD_L1 port1 port2
C1 port1 port2 2.87e-14
L2 port1 1 2.96e-9
R2 1 port2 1.30e-2
R3 port1 port2 4.40e+3
L4 port1 2 2.67e-8
R4 2 port2 2.47
L5 port1 3 5.23e-8
R5 3 port2 20.8
L6 port1 4 1.23e-7
R6 4 port2 692
.ENDS L1
*----------------------------------------------------------------------
